US07405305B2
5-[3-(tert-Butyldimethylsilyloxy)propoxy]-1-isopropyl-1H-indole
Dissolve 5-[3-(tert-butyldimethylsilyloxy)propoxy]-1H-indole (1.0 g, 0.327 mmol) in N,N-dimethylformamide (20 mL) under nitrogen. Add 3.6 mL potassium tert-butoxide (1M solution in THF, 1.1 equiv) and stir 10 minutes, then add 2-iodopropane (0.36 mL, 1.1 eq) and stir for 30 minutes. Dilute with ethyl acetate and wash with water then brine. Dry over magnesium sulfate, filter and concentrate. Purification by column chromography (hexanes to 4:1 hexanes:ethyl acetate) affords 0.43 g product (38%) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ 0.00 (s, 6H), 0.83 (s, 9H), 1.40 (d, J=6.83 Hz, 6H), 1.86 (m, 2H), 3.74 (m, 2H), 3.98 (m, 2H), 4.64 (m, 1H), 6.29 (d, J=2.93 Hz, 1H), 6.71 (m, 1H), 6.99 (d, J=1.95 Hz, 1H), 7.36 (m, 2H).

reactant | 5-[3-(tert-butyldimethylsilyloxy)propoxy]-1H-indole | 0.327 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)OCCCOC=1C=C2C=CNC2=CC1 | C17H27NO2Si
reactant | potassium tert-butoxide | 1M, 3.6 mL, 1.1 equiv | CC(C)([O-])C.[K+]
reactant | 2-iodopropane | 0.36 mL, 1.1 eq | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[3-(tert-Butyldimethylsilyloxy)propoxy]-1-isopropyl-1H-indole | 0.43 g, 38% | [Si](C)(C)(C(C)(C)C)OCCCOC=1C=C2C=CN(C2=CC1)C(C)C | C20H33NO2Si
